US06057369
To a solution of t-butyl-3-(3,4-dimethoxyphenyl)sulfanyl-7-phenylheptanoate (14.9 g, 0.03 mol) in CH2Cl2 (150 mL) cooled to 0° C., is added trifluoroacetic acid (30 mL). The solution is allowed to warm to room temperature and stir overnight after which TLC analysis indicated complete reaction. The reaction mixture is concentrated in vacuo and the brown residue is chromatographed on silica gel (pet-ether/EtOAc, 1:1) to afford 11.9 g of (±) 3-(3,4-dimethoxyphenyl)sulfanyl-7-phenylheptanoic acid (91%) as a pale yellow oil. TLC analysis [pet-ether/EtOAc, 1:1, Rf (heptanoate)=0.95, Rf (acid)=0.15]. 1H NMR (300 MHz, CDCl3) δ 1.5-1.65 (m, 6H), 2.55 (m, 4H), 3.30 (t, 1H), 3.85, (d, 6H), 6.80 (d, 1H), 6.98-7.31 (m, 7H) ppm. Mass spectrum (FAB) m/z 374 M+.

reactant | t-butyl-3-(3,4-dimethoxyphenyl)sulfanyl-7-phenylheptanoate | 0.03 mol, 14.9 g | C(C)(C)(C)OC(CC(CCCCC1=CC=CC=C1)SC1=CC(=C(C=C1)OC)OC)=O | C25H34O4S
reactant | trifluoroacetic acid | 30 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | (±) 3-(3,4-dimethoxyphenyl)sulfanyl-7-phenylheptanoic acid | 11.9 g, 91% | COC=1C=C(C=CC1OC)SC(CC(=O)O)CCCCC1=CC=CC=C1 | C21H26O4S
